US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (225 mg, 0.67 mmol), (prepared as described for the starting material in Example 1), potassium carbonate (106 g, 0.77 mmol) and 7-hydroxyquinoline (112 mg, 0.77 mmol) in DMF (7.5 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature. The reaction mixture was treated with 1M aqueous sodium hydroxide solution (40 ml) and stirred at ambient temperature for a few minutes. The crude solid was collected by filtration washing with water. The resultant solid was dissolved in dichloromethane (2 ml) and filtered through phase separating paper. The filtrate was evaporated under vacuum to give a solid residue which was triturated with ether, filtered and dried to give 6-methoxy-7-(3-morpholinopropoxy)-4-(quinolin-7-yloxy)quinazoline (116 mg, 39%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.67 mmol, 225 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | potassium carbonate | 0.77 mmol, 106 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxyquinoline | 0.77 mmol, 112 mg | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
reactant | sodium hydroxide | 1M, 40 ml | [OH-].[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(quinolin-7-yloxy)quinazoline | 116 mg, 39% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)OC1=CC=C2C=CC=NC2=C1 | C25H26N4O4
